US06852731B2
Diethyl 2-{[(4-methylthien-3-yl)amino]methylene}malonate
To a solution of methyl 3-amino-4-methylthiophene-2-carboxylate (commercially available from Avocado, catalog number 10115, 5.00 g, 29.2 mmol) in 95% ethanol (25 mL) was added 1.0 N NaOH (35 mL). The mixture was heated to reflux and stirred for 2.5 hrs. The resulting solution was cooled to room temperature before the addition of glacial acetic acid (2.05 mL, 35.8 mmol). After stirring for 5 minutes at room temperature, diethyl ethoxymethylenemalonate (DEEM, 6.5 mL, 32.2 mmol) was added. The mixture was stirred vigorously until it nearly solidified (ca. 5 min), and then it was left standing at room temp for 3 hours. 95% ethanol (60 mL) was added, and the mixture was warmed on a steam bath until solution was achieved. Water (50 mL) was added with continued heating on the steam bath, resulting in a slightly cloudy solution. The flask was removed from the steam bath and allowed to cool to room temp and then placed in a 0° C. refrigerator, at which point crystallization of the product as fine white filaments was rapid. After standing at 0° C. for. 2 hours, the mixture was filtered. The collected solid was washed with 50% ethanol/water and dried, affording a white solid (5.79 g). The filtrate was diluted with water to a total volume of 500 mL, left overnight at 0° C., and filtered to afford a second crop (0.96 g) that was of equal purity to the first crop by HPLC analysis.

reactant | methyl 3-amino-4-methylthiophene-2-carboxylate | NC1=C(SC=C1C)C(=O)OC | C7H9NO2S
reactant | NaOH | 1.0 N, 35 mL | [OH-].[Na+]
reactant | acetic acid | 35.8 mmol, 2.05 mL | C(C)(=O)O | C2H4O2
reactant | diethyl ethoxymethylenemalonate | 32.2 mmol, 6.5 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | Water | 50 mL | O | H2O
product | Diethyl 2-{[(4-methylthien-3-yl)amino]methylene}malonate | 5.79 g | CC=1C(=CSC1)NC=C(C(=O)OCC)C(=O)OCC | C13H17NO4S
